US07056937B2
Step B: Preparation of 4-methyl-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl-acetic acid ethyl ester
4-Methyl-3-oxo-3,4-dihydro-1H-quinoxalin-2-ylidene-acetic acid ethyl ester (1.1 g, 4.47 mmol) was suspended in 25 mL of MeOH/HOAc (2:1) at rt and sodium cyanoborohydride was added portionwise (281 mg, 4.47 mmol). The mixture became clear after five minutes and was continuously stirred at rt for 2 hours. The solvent was removed under reduced pressure. The crude residue was mixed with water (50 mL) and extracted with EtOAc (3×40 mL). The organic layers were combined, washed with water, brine and dried over MgSO4. After removal of the solvent, a pale brown oil was obtained as the desired pure product: 1H NMR (CDCl3) δ=6.97–6.94 (m, 3H), 6.74 (d, J=9.0 Hz, 1H), 4.28 (dd, J=3.0, 9.0 Hz, 1H), 4.23 (q, J=9.0 Hz, 2H), 3.37 (s, 3H), 3.11 (dd, J=3.0, 18.0 Hz, 1H), 2.68 (dd, J=9.0, 19.0 Hz, 1H), 1.28 (t, J=9.0 Hz, 3H).

reactant | 4-Methyl-3-oxo-3,4-dihydro-1H-quinoxalin-2-ylidene-acetic acid ethyl ester | 4.47 mmol, 1.1 g | C(C)OC(C=C1NC2=CC=CC=C2N(C1=O)C)=O | C13H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | MeOH HOAc | 25 mL | CO.CC(=O)O
product | 4-methyl-3-oxo-1,2,3,4-tetrahydroquinoxalin-2-yl-acetic acid ethyl ester | C(C)OC(CC1NC2=CC=CC=C2N(C1=O)C)=O | C13H16N2O3
